US08629147B2
2-[2-Hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-1H-benzoimidazole-5-carboxylic acid [6-(4-methyl-piperazin-1-yl)-pyridin-3-yl]-amide
To a solution of 6-(4-methyl-piperazin-1-yl)-pyridin-3-ylamine (38.4 mg, 0.2 mmol) in dry DCE (1 mL) were added AlMe3 in toluene solution (2.0 M, 160 μL, 0.32 mmol), and then 2-[2-hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-3H-benzoimidazole-5-carboxylic acid methyl ester (37.5 mg, 0.1 mmol). The reaction mixture was heated at 80° C. for 16.5 h, cooled to the room, loaded on silica gel, and chromatographyed (250:10:1 CH2Cl2/MeOH/28% aqueous NH4OH) to afford the title compound (10.7 mg, 20%). 1H NMR (MeOH-d4) δ 2.35 (s, 3H), 2.57 (m, 4H), 3.54 (m, 4H), 3.97 (s, 3H), 6.84 (d, J=9 Hz, 1H), 7.03-7.10 (2H), 7.58 (d, J=9 Hz, 1H), 7.68 (d, J=9 Hz, 1H), 7.78 (d, J=9 Hz, 1H), 7.86-7.93 (2H), 8.13 (m, 1H), 8.17 (s, 1H), 8.22 (s, 1H), 8.41 (s, 1H). ESI-MS m/z 536.3 (MH+).

reactant | 6-(4-methyl-piperazin-1-yl)-pyridin-3-ylamine | 0.2 mmol, 38.4 mg | CN1CCN(CC1)C1=CC=C(C=N1)N | C10H16N4
reactant | AlMe3 | C[Al](C)C
reactant | toluene | 0.32 mmol, 2.0 M, 160 μL | C1(=CC=CC=C1)C | C7H8
reactant | 2-[2-hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-3H-benzoimidazole-5-carboxylic acid methyl ester | 0.1 mmol, 37.5 mg | COC(=O)C1=CC2=C(N=C(N2)C2=C(C=CC(=C2)C=2C(=NC=CC2)OC)O)C=C1 | C21H17N3O4
solvent | DCE | 1 mL | ClCCCl | C2H4Cl2
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 2-[2-Hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-1H-benzoimidazole-5-carboxylic acid [6-(4-methyl-piperazin-1-yl)-pyridin-3-yl]-amide | 10.7 mg, 20% | CN1CCN(CC1)C1=CC=C(C=N1)NC(=O)C1=CC2=C(NC(=N2)C2=C(C=CC(=C2)C=2C(=NC=CC2)OC)O)C=C1 | C30H29N7O3
